US08114868B2
To a solution of (S)-3-((S)-1-(4-bromophenyl)ethyl)-6-(2-oxopropyl)-6-phenyl -1,3-oxazinan-2-one (20 g, 46.4 mmol) in anhydrous THF (200 mL) was added dropwise methylmagnesium bromide (31 mL, 144 mmol) at −78° C. under nitrogen. Then the mixture was stirred at rt for 1 h. The reaction mixture was quenched with aq NaHCO3 (50 mL) under ice water bath. The organic layers were separated. The aqueous layer was extracted with EtOAc (150 mL). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated in vacuo to give the crude product, which was purified column chromatography (petroleum ether/EtOAc=5:1 to 2:1) to afford (S)-3-((S)-1-(4-bromophenyl)ethyl)-6-(2-hydroxy-2-methylpropyl) -6-phenyl-1,3-oxazinan-2-one (13 g, 65%). After re-crystallization from EtOH, 4 g of the pure compound was obtained. 1H NMR (CDCl3): 1.06 (s, 3H), 1.12 (s, 3H), 1.44 (d, 3H), 2.14 (m, 3H), 2.21 (m, 1H), 2.33 (m, 1H), 2.76 (m, 1H), 5.54 (q, 1H), 6.74 (d, 2H), 7.16 (d, 2H), 7.28 (m, 5H).

reactant | (S)-3-((S)-1-(4-bromophenyl)ethyl)-6-(2-oxopropyl)-6-phenyl -1,3-oxazinan-2-one | 46.4 mmol, 20 g | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)=O)=O | C21H22BrNO3
reactant | methylmagnesium bromide | 144 mmol, 31 mL | C[Mg]Br
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (S)-3-((S)-1-(4-bromophenyl)ethyl)-6-(2-hydroxy-2-methylpropyl) -6-phenyl-1,3-oxazinan-2-one | 13 g, 65% | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O | C22H26BrNO3
